US07208524B2
4-[2-(2-tert-Butoxycarbonylaminoethyl)-5-isopropyl-phenoxy]butyrate (0.283 g) was deissolved in 10 mL of 35% hydrogen chloride ethanol solution, and the mixture was stirred at room temperature for 5 hours. The solvent was removed under reduced pressure to give 0.235 g of ethyl 4-[2-(2-aminoethyl)-5-isopropylphenoxy]butyrate hydrochloride.

reactant | 4-[2-(2-tert-Butoxycarbonylaminoethyl)-5-isopropyl-phenoxy]butyrate | 0.283 g | C(C)(C)(C)OC(=O)NCCC1=C(OCCCC(=O)[O-])C=C(C=C1)C(C)C
reactant | hydrogen chloride ethanol | 10 mL | C(C)O.Cl
product | ethyl 4-[2-(2-aminoethyl)-5-isopropylphenoxy]butyrate hydrochloride | 0.235 g | Cl.NCCC1=C(OCCCC(=O)OCC)C=C(C=C1)C(C)C | InChI=1S/C17H27NO3.ClH/c1-4-20-17(19)6-5-11-21-16-12-15(13(2)3)8-7-14(16)9-10-18;/h7-8,12-13H,4-6,9-11,18H2,1-3H3;1H
